US05081124
The process described in Example 3 was repeated using 2-acetoxymethyl-6-bromomethyl-3,4-dihydroquinazolin-4-one (prepared from the 6-methyl compound, which is described in note (5) of Example 4, using the process described in the portion of Example 3 concerned with the preparation of starting materials) in place of 6-bromomethyl-3,4-dihydro-2-methylquinazolin-4-one and, in turn, diethyl N-(5-methylamino-2-theonyl)-L-glutamate and diethyl N-(5-ethylamino-2-thenoyl)-L-glutamate (both of which were prepared as described in note (5) of Example 7) in place of diethyl N-(p-methylaminobenzoyl)-L-glutamate. There were thus obtained N-5-[N-(3,4-dihydro-2-hydroxymethyl-4-oxoquinazolin-6-ylmethyl)-N-methylamino-2-thenoyl-L-glutamic acid, as its monohydrate, m.p. 180°-190° C. and N-{5-[N-(3,4-dihydro-2-hydroxymethyl-4-oxoquinazolin-6-ylmethyl)-N-ethylamino-2-thenoyl}-L-glutamic acid, as its monohydrate, m.p. 148°-153° C.

reactant | 2-acetoxymethyl-6-bromomethyl-3,4-dihydroquinazolin-4-one | C(C)(=O)OCC1=NC2=CC=C(C=C2C(N1)=O)CBr | C12H11BrN2O3
reactant | 6-bromomethyl-3,4-dihydro-2-methylquinazolin-4-one | BrCC=1C=C2C(NC(=NC2=CC1)C)=O | C10H9BrN2O
reactant | diethyl N-(5-ethylamino-2-thenoyl)-L-glutamate | C(C)NC1=CC=C(S1)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC | C16H24N2O5S
reactant | diethyl N-(p-methylaminobenzoyl)-L-glutamate | CNC1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C17H24N2O5
product | N-(3,4-dihydro-2-hydroxymethyl-4-oxoquinazolin-6-ylmethyl)-N-methylamino-2-thenoyl-L-glutamic acid | OCC1=NC2=CC=C(C=C2C(N1)=O)CN([C@@](CCC(=O)O)(C(=O)O)C(C1=CC=CS1)=O)NC | C21H22N4O7S
